US06441012B1
Preparation of 2-Anilino-6-(3-[2-methyl-3-carboxypropoxy)-4-methoxy-anilinocarbonylmethoxy)benzoxazole
Methyl 3-methyl-4-(2-methoxy-5-aminophenoxy)butyrate and 2-anilino-4-methoxy-6-carboxymethoxybenzoxazole were coupled together using the method described in example 1 g above.

reactant | Methyl 3-methyl-4-(2-methoxy-5-aminophenoxy)butyrate | CC(CC(=O)OC)COC1=C(C=CC(=C1)N)OC | C13H19NO4
reactant | 2-anilino-4-methoxy-6-carboxymethoxybenzoxazole | N(C1=CC=CC=C1)C=1OC2=C(N1)C(=CC(=C2)OCC(=O)O)OC | C16H14N2O5
product | 2-Anilino-6-(3-[2-methyl-3-carboxypropoxy)-4-methoxy-anilinocarbonylmethoxy)benzoxazole | N(C1=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)OCC(=O)NC2=CC(=C(C=C2)OC)OCC(CC(=O)O)C | C27H27N3O7
